US04515806
Ethyl ether (15 ml) and an excess of anhydrous sodium carbonate were added to a mixture in water of 0.13 g (0.5 mmole) of 5-[(dimethylamino)methyl]-2-furanmethanethiol oxalate (1:1), sodium dithionite (0.05 g) and anhydrous sodium carbonate (0.15 g). The mixture was filtered and the filtrate was evaporated under vacuum. 0.087 g (0.5 mmole) of N-(2-hydroxyethyl)-alpha-(nitromethylene)-1-aziridinemethaneamine and 4 ml of methanol were added to the residue. The mixture was evaporated to dryness and the residue was heated to 95°-100° C. for 1 hour and chromatographed over silica (methanol-0.88 NH3 ; 79:1). The appropriate eluate was evaporated under vacuum to give 0.12 g of N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine having the same properties as the product prepared according to Example 1, paragraph (a).

reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | 5-[(dimethylamino)methyl]-2-furanmethanethiol oxalate | 0.5 mmole, 0.13 g | C(C(=O)O)(=O)O.CN(C)CC1=CC=C(O1)CS
reactant | sodium dithionite | 0.05 g | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium carbonate | 0.15 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-hydroxyethyl)-alpha-(nitromethylene)-1-aziridinemethaneamine | 0.5 mmole, 0.087 g | OCCNC(N1CC1)=C[N+](=O)[O-] | C6H11N3O3
solvent | water | O | H2O
solvent | methanol | 4 ml | CO | CH4O
solvent | Ethyl ether | 15 ml | C(C)OCC | C4H10O
product | N-[2-[[(5-[(dimethylamino)methyl]-2-furanyl)methyl]thio]ethyl]-N'-(2-hydroxyethyl)-2-nitro-1,1-ethenediamine | 0.12 g | CN(C)CC1=CC=C(O1)CSCCNC(=C[N+](=O)[O-])NCCO | C14H24N4O4S
